US08207214B2
a) 6-bromo-9-ethyl-1,4-dimethyl-3-nitro-9H-carbazole
6-bromo-1,4-dimethyl-3-nitro-9H-carbazole (prepared as described in Chem. Pharm. Bull 35(1), 425-428 (1987), (4.8 g, 0.015 mol) was reacted with iodoethane by working in a similar manner to Example 1a).

reactant | 6-bromo-1,4-dimethyl-3-nitro-9H-carbazole | BrC=1C=C2C=3C(=C(C=C(C3NC2=CC1)C)[N+](=O)[O-])C | C14H11BrN2O2
reactant | iodoethane | ICC | C2H5I
product | 6-bromo-9-ethyl-1,4-dimethyl-3-nitro-9H-carbazole | BrC=1C=C2C=3C(=C(C=C(C3N(C2=CC1)CC)C)[N+](=O)[O-])C | C16H15BrN2O2
